US07582633B2
Step 1: Ethyl 2-(4-{2-[4-(2-bromo-5-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-1H-1,2,3-triazol-1-yl)propanate
The title compound was prepared in a similar manner as that described for Example 10, step 4. Into a 25-mL round-bottom flask equipped with a magnetic stirbar was added 2-[4-(2-bromo-5-fluorophenoxy)piperidin-1-yl]-5-ethynylpyrimidine (130 mg, 0.35 mmol), sodium azide (23 mg, 0.35 mmol) tert-butanol (1.5 mL), water (0.7 mL), copper(I) iodide (4 mg, 0.02 mmol) and sodium ascorbate (9 mg, 0.04 mmol). The resulting suspension was treated with dropwise addition of ethyl 2-bromopropionate (45 μL, 0.35 mmol) and stirred at room temperature for 16 h overnight. The mixture was poured into a 125 mL separatory funnel containing water (75 mL) and the mixture was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and the solvent was evaporated under reduced pressure. Purification by column chromatography through silica gel, eluting with 5% EtOAc in hexanes to 55% EtOAc in hexanes as a gradient gave the desired product as a beige solid.

reactant | 2-[4-(2-bromo-5-fluorophenoxy)piperidin-1-yl]-5-ethynylpyrimidine | 0.35 mmol, 130 mg | BrC1=C(OC2CCN(CC2)C2=NC=C(C=N2)C#C)C=C(C=C1)F | C17H15BrFN3O
reactant | sodium azide | 0.35 mmol, 1.5 mL, 23 mg | [N-]=[N+]=[N-].[Na+]
reactant | sodium ascorbate | 0.04 mmol, 9 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | ethyl 2-bromopropionate | 0.35 mmol, 45 μL | BrC(C(=O)OCC)C | C5H9BrO2
catalyst | copper(I) iodide | 0.02 mmol, 4 mg | [Cu]I
solvent | water | 75 mL | O | H2O
solvent | water | 0.7 mL | O | H2O
product | Ethyl 2-(4-{2-[4-(2-bromo-5-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-1H-1,2,3-triazol-1-yl)propanate | BrC1=C(OC2CCN(CC2)C2=NC=C(C=N2)C=2N=NN(C2)C(C(=O)OCC)C)C=C(C=C1)F | C22H24BrFN6O3
